US07345038B2
To a solution of 2-chloro-5-(chloromethyl)pyridine (1.0 g, 6.17 mmole) in 11 mL of dry acetonitrile is added 1.06 mL (12.3 mmol) of methylethylamine followed by 850 mg (6.17 mmol) of potassium carbonate. The reaction is heated at 80° C. for 5 h. After cooling, the reaction mixture is quenched with 5 mL of water, extracted three-times with methylene chloride, and dried over sodium sulfate. Concentration of the solvent provided an oil which was purified by silica gel chromatography to provide 1.0 g (87% yield) of 1-(6-Chloro-pyridin-3-ylmethyl)-methylethylamine. Diagnostic 1H NMR (400 MHz, CDCl3) 1.06 (t, 3H, J=7.1 Hz), 2.14 (s, 3H), 2.40 (q, 2H, J=7.1 Hz), 3.43 (s, 2H), 7.25 (d, 1H, J=8.2 Hz), 7.62 (dd, 1H, J=8.2 and 5.8 Hz); MS (187.2 (M+H).

reactant | 2-chloro-5-(chloromethyl)pyridine | 6.17 mmole, 1.0 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | methylethylamine | 12.3 mmol, 1.06 mL | CNCC | C3H9N
reactant | potassium carbonate | 6.17 mmol, 850 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 11 mL | C(C)#N | C2H3N
product | 1-(6-Chloro-pyridin-3-ylmethyl)-methylethylamine | 1.0 g, 87% yield | ClC1=CC=C(C=N1)CC(C)NC | C9H13ClN2
